US09227963B2
2-(tricyclo[3.3.1.13,7]dec-1-ylmethoxy)-4-iodo-3-methyl-pyridine
1-Hydroxylmethyladamantane (249 mg) was dissolved in tetrahydrofuran (3.5 mL) and NaH (24 mg) was added. After the gas evolution ceased, 2-fluoro-4-iodo-3-methylpyridine (237 mg) in tetrahydrofuran (1.5 mL) was added. The reaction mixture was stirred at room temperature for 0.5 hours, quenched with H2O and extracted with ethyl acetate. The combined organic layers were washed with brine and concentrated. The residue was purified by preparative TLC, eluting with petroleum ether to provide the title compound.

reactant | 1-Hydroxylmethyladamantane | 249 mg | OCC12CC3CC(CC(C1)C3)C2 | C11H18O
reactant | NaH | 24 mg | [H-].[Na+]
reactant | 2-fluoro-4-iodo-3-methylpyridine | 237 mg | FC1=NC=CC(=C1C)I | C6H5FIN
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 2-(tricyclo[3.3.1.13,7]dec-1-ylmethoxy)-4-iodo-3-methyl-pyridine | C12(CC3CC(CC(C1)C3)C2)COC2=NC=CC(=C2C)I | C17H22INO
